Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / morphine / amoxicillin
 
Attending: ___.
 
Chief Complaint:
Transient alteration in mental status
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
The patient is a ___ yo F w/ PMH depression, anxiety, HTN, 
hypothyroidism. She was in her usual state of health until 11 AM 
___ morning. Her husband first noticed that she was more 
anxious than usual, which he attributed to her getting 
everything ready for an excursion.  She took ___ of a 0.5 mg 
Klonopin tablet at this time.  Then felt that she became 
progressively more anxious, agitated, and also emotional, 
crying. He began to notice that the sentences she was saying 
were not making sense. She was repeating the same words and 
phrases and cycling back on the same things.  He did not have 
difficulty understanding her speech. The phrases that she used 
made sense, however she was not able to put them together to 
arrive at a point.  She states that she is fully aware during 
this and mostly remembers the entire episode, and agrees that 
what happened was abnormal. She states that she remembers saying 
inappropriate things an example of which she provided was that 
she told a friend that they were old. She also recalls looking 
at the sign in the museum in not being able to read it, she felt 
like she cannot mentally focus on it.

Her husband states that he noticed an abnormal gait, he states 
that her left foot slap the ground frequently, and that he saw 
her falling to the ground while adjusting her sandal. He states 
that it looked like she was drunk, though there is no alcohol 
consumption that day. she disagrees on there being a gait
abnormality. She states that it was simply because walking those 
particular streets with sandals was difficult and that the L 
sandal had a problem.  After approximately 5 hours she had 
mostly come the back to baseline already.  At the time of 
interview they both agreed that she was back at her baseline.

On neurologic review of systems, the patient denies headache, 
lightheadedness, or confusion. Denies difficulty with producing 
or comprehending speech. Denies loss of vision, blurred vision, 
diplopia, vertigo, tinnitus, hearing difficulty, dysarthria, or 
dysphagia. Denies focal muscle weakness, numbness, parasthesia. 
Denies loss of sensation. Denies bowel or bladder incontinence 
or retention. Denies difficulty with gait. On general review of 
systems, the pt denies recent fever or chills. No night sweats 
or recent weight loss or gain. Denies cough, shortness of 
breath. Denies chest pain or tightness, palpitations. Denies 
nausea, vomiting, diarrhea, constipation or abdominal pain. No 
recent change in bowel or bladder habits. No dysuria. Denies 
arthralgias or myalgias. Denies rash.

 
Past Medical History:
Hypertension
Depression
Anxiety
Hypothyroidism
Thyroid ablation
C-section ×2
jaw surgery
 
Social History:
___
Family History:
Non contributory
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION

Vitals: 98.2 HR 85 BP 144/83 RR 18 SPO2 100%

General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in 
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or 
organomegaly noted.
Extremities: No ___ edema.
Skin: no rashes or lesions noted.

Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects. Speech
was not dysarthric. Able to follow both midline and appendicular
commands. Pt was able to register 3 objects and recall ___ at 5
minutes. There was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 5 to 3mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift 
bilaterally. No adventitious movements, such as tremor, noted. 
No asterixis noted.

  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___ 
L  5    ___   ___  5   5    5  5     5     5   
R  5    ___   ___  5   5    5  5     5     5   

-Sensory: No deficits to light touch, throughout. No extinction 
to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted. 
No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm 
swing. Romberg absent.
=
=
=
=
=
=
=
=
=
=
=
================================================================

DISCHAGE PHYSICAL EXAM 

Unchanged from previous, no focal neurological deficits. 

 
Pertinent Results:
Blood: 
___ 12:00AM BLOOD WBC-6.4 RBC-4.46 Hgb-14.1 Hct-41.6 MCV-93 
MCH-31.6 MCHC-33.9 RDW-11.8 RDWSD-40.3 Plt ___
___ 12:00AM BLOOD Neuts-57.1 ___ Monos-8.4 Eos-2.3 
Baso-0.6 Im ___ AbsNeut-3.65 AbsLymp-1.99 AbsMono-0.54 
AbsEos-0.15 AbsBaso-0.04
___ 12:00AM BLOOD Glucose-79 UreaN-19 Creat-1.0 Na-139 
K-3.5 Cl-98 HCO3-27 AnGap-14
___ 12:00AM BLOOD ALT-9 AST-22 AlkPhos-80 TotBili-0.4
___ 12:00AM BLOOD Albumin-4.4 Calcium-9.4 Phos-3.4 Mg-2.0
___ 12:00AM BLOOD TSH-0.47
___ 12:00AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

Urine: 
___ 08:49PM URINE Color-Straw Appear-Clear Sp ___
___ 08:49PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-SM*
___ 08:49PM URINE RBC-1 WBC-11* Bacteri-FEW* Yeast-NONE 
Epi-<1
___ 08:49PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

Imaging: 

MRI brain w/wo:
There is no evidence for an intracranial mass, acute infarction, 
edema, or 
blood products.  There are foci of high T2 signal in the 
periventricular, 
deep, and subcortical white matter of the cerebral hemispheres, 
which are 
nonspecific but most commonly represent sequela of chronic small 
vessel 
ischemic disease in this age group, though sequela of 
demyelination or 
inflammation may also be considered. Ventricles and sulci are 
age-appropriate.  Major vascular flow voids are grossly 
preserved, though the 
intracranial vasculature is better assessed on the preceding 
CTA. There is a small mucous retention cyst and mild mucosal 
thickening in the 
right maxillary sinus.
 
CT: 
No intracranial hemorrhage or CT evidence of acute process. 
  
CTA: 
Patent anterior/posterior circulations, circle of ___, and 
major tributaries. Unremarkable neck vessels. 
 
EEG: 
Preliminary report with no evidence of seizure
 
Brief Hospital Course:
___ F w/ PMH depression, anxiety, HTN, hypothyroidism admitted to 
the neurology service for evaluation of transient lack of 
impulse control, speech, and gait disturbance in the setting of 
buproprion and clonazepam use. Neurologic examination intact. 
MRI brain w/wo contrast did not show evidence of stroke or mass 
lesion. Routine EEG with no evidence of seizure activity on 
preliminary read. She was found to have a UTI and prescribed a 
seven day course of nitrofurantoin. Etiology of her symptoms 
unclear but given unremarkable neurological workup, medication 
side effects are likely a possibility. 

Transitional issues: 
# Follow up with PCP within ___ week from discharge. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Hydrochlorothiazide 25 mg PO DAILY 
2. Levothyroxine Sodium 75 mcg PO DAILY 
3. BuPROPion (Sustained Release) 150 mg PO QAM 
4. Potassium Chloride 10 mEq PO DAILY 
5. ClonazePAM 0.125 mg PO QHS:PRN anxiety 
6. Estrogens Conjugated 0.625 gm VG DAILY 
7. Gabapentin 600 mg PO BID 

 
Discharge Medications:
1.  Nitrofurantoin Monohyd (MacroBID) 100 mg PO BID Duration: 7 
Days 
___ will continue this medication for six days end date ___ 
RX *nitrofurantoin monohyd/m-cryst [Macrobid] 100 mg 1 
capsule(s) by mouth twice a day Disp #*12 Capsule Refills:*0 
2.  BuPROPion (Sustained Release) 150 mg PO QHS  
3.  BuPROPion 300 mg PO QAM  
4.  ClonazePAM 0.125 mg PO QHS:PRN anxiety  
5.  Estrogens Conjugated 0.625 gm VG DAILY  
6.  Gabapentin 600 mg PO BID  
7.  Hydrochlorothiazide 25 mg PO DAILY  
8.  Levothyroxine Sodium 75 mcg PO DAILY  
9.  Potassium Chloride 10 mEq PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Transient alteration in mental status

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___, 

___ were admitted to the neurology service after an episode of 
difficulty controlling your speech and behavior. We have 
performed a full neurological exam and found ___ to be 
completely intact. MRI of your brain did not show evidence of 
stroke or mass lesion. EEG was performed and did not show 
evidence of seizure. At this point the cause of your symptoms is 
unclear. We recommend ___ follow up with your primary care 
doctor within one week from discharge. It has been a pleasure 
caring for ___. 

Sincerely, 

Your ___ Neurology Team 
 
Followup Instructions:
___